US07253194B2
LiAlH4 (916 mg, 24.1 mmol) was added cautiously and portionwise during 15 min to a stirred solution of (RS)-[2-(4-Benzyloxy-phenyl)-1-(methoxy-methyl-carbamoyl)-ethyl]-carbamic acid tert-butyl ester (10.00 g, 24.1 mmol) in THF (150 mL) at 0° C. under an atmosphere of argon. The ice-bath was removed and the mixture was stirred for 1 hr, then poured onto a mixture of ice and KHSO4 (1 M aq.). When the ice had melted the product was extracted into EtOAc. The combined extracts were washed with brine then dried (Na2SO4) and evaporated to give (RS)-[1-(4-Benzyloxy-benzyl)-2-oxo-ethyl]-carbamic acid tert-butyl ester (8.51 g, 99%), mp 100.3-101.7° C. 1H NMR (CDCl3) δ 1.44 (s, 9H), 3.07 (d, J=6.7 Hz, 2H), 4.40 (br s, 1H), 5.05 (s, 2H), 6.92 (d, J=8.6 Hz, 2H), 7.09 (d, J=8.7 Hz, 2H), 7.33-7.45 (m, 5H), 9.63 (s, 1H). 13C NMR (CDCl3) δ 199.6, 156.4, 144.4, 136.8, 130.4, 128.6, 128.5, 128.0, 127.9, 127.5, 115.1, 80.9, 70.0, 46.0, 34.6, 28.3.

reactant | LiAlH4 | 24.1 mmol, 916 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (RS)-[2-(4-Benzyloxy-phenyl)-1-(methoxy-methyl-carbamoyl)-ethyl]-carbamic acid tert-butyl ester | 24.1 mmol, 10.00 g | C(C)(C)(C)OC(NC(CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(N(C)OC)=O)=O | C23H30N2O5
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | (RS)-[1-(4-Benzyloxy-benzyl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | 8.51 g, 99% | C(C)(C)(C)OC(NC(C=O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C21H25NO4
